US07612067B2
C. 3-(3-Chloro-5-pyridin-3-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
Using a procedure similar to Example 85 Method B Step C, from 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.50 g, 2.30 mmol), 3-(5-bromo-4-chloro-thiophen-2-yl)-pyridine) (0.76 g, 2.76 mmol), Cs2CO3 (1.57 g, 4.83 mmol), PPh3 (0.11 g, 0.44 mmol) and Pd2(dba)3 (0.10 g, 0.11 mmol). The residue is purified by ISCO column chromatography (15%-30% EtOAc/hexane gradient) furnish the title compound (0.35 g, 0.85 mmol, 37%). Spectrum identical to Method A.

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.30 mmol, 0.50 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C | C13H19N3
reactant | 3-(5-bromo-4-chloro-thiophen-2-yl)-pyridine | BrC1=C(C=C(S1)C=1C=NC=CC1)Cl | C9H5BrClNS
reactant | Cs2CO3 | 4.83 mmol, 1.57 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | PPh3 | 0.44 mmol, 0.11 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
catalyst | Pd2(dba)3 | 0.11 mmol, 0.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3-Chloro-5-pyridin-3-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.85 mmol, 0.35 g, 37% | ClC1=C(SC(=C1)C=1C=NC=CC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H23ClN4S
